US07064201B2
Manganese dioxide (30 g, 0.35 mol) was added to a heterogeneous solution of (5-tert-butyl-3H-imidazol-4-yl)-methanol (4.97 g, 0.03 mol) in acetone (700 ml) and the resulting mixture was stirred at room temperature for 4 h. The mixture was filtered through a pad of Celite and the pad was washed with acetone. The filtrate and washings were combined and evaporated. The residue was triturated with ether to afford, as a colorless solid, 5-tert-butyl-3H-imidazole-4-carbaldehyde (2.50 g, 51%). (Hayashi, Personal Communication (2000)).

reactant | (5-tert-butyl-3H-imidazol-4-yl)-methanol | 0.03 mol, 4.97 g | C(C)(C)(C)C1=C(NC=N1)CO | C8H14N2O
solvent | acetone | 700 ml | CC(=O)C | C3H6O
catalyst | Manganese dioxide | 0.35 mol, 30 g | [O-2].[O-2].[Mn+4]
product | 5-tert-butyl-3H-imidazole-4-carbaldehyde | 2.50 g, 51% | C(C)(C)(C)C1=C(NC=N1)C=O | C8H12N2O
